US08071768B2
c. 4-{7-[2-(2-Hydroxymethyl-pyrrolidin-1-yl)-ethoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid (4-pyrrolidin-1-yl-phenyl)-amide
To a solution of 4-[7-(2-methanesulfonyloxy-ethoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester (40.6 mg, 0.09 mmol) in DMSO (0.4 mL) was added (S)-(+)-2-pyrrolidinemethanol (90.9 mg, 0.9 mmol). The mixture was stirred at 120° C. overnight and subsequently partitioned between EtOAc and water. The combined organic extracts were washed with brine, dried over Na2SO4 and evaporated. The residue was treated with 50% TFA/CH2Cl2 (8 mL) for 2 h, the solvents (TFA/CH2Cl2) were removed under reduced pressure and half of the residue was re-dissolved in CH2Cl2. DIPEA (55 μL) was added to the above solution, followed by (4-pyrrolidin-1-yl-phenyl)-carbamic acid 4-nitro-phenyl ester hydrochloride (19.6 mg, 0.054 mmol), which was prepared as described in Example 74a. The reaction mixture was stirred for 1 h, diluted with water. The organic phase was collected and the solvents were evaporated. The crude residue was purified by flash column chromatography on silica gel (15% MeOH/EtOAc as eluent) to afford a white solid (10 mg, 40.8% overall yield). 1H NMR (CD3OD) δ 9.03 (s, 1H), 8.35 (d, J=9.44 Hz, 1H), 7.40 (dd, J=9.25 and 2.54 Hz, 1H), 7.34 (d, J=2.48 Hz, 1H), 7.13 (d, J=8.87 Hz, 2H), 6.54 (d, J=8.96 Hz, 2H), 4.29-4.36 (4H), 3.92 (m, 1H), 3.60 (dd, J=10.98 and 4.81 Hz, 1H), 3.52 (dd, J=11.00 and 5.90 Hz, 1H), 3.40 (m, 1H), 3.27 (m, 1H), 3.24 (t, J=6.61 Hz, 4H), 3.15 (td, J=12.57 and 2.55 Hz, 2H), 2.88 (dt, J=13.67 and 5.50 Hz, 1H), 2.71 (m, 1H), 2.47 (m, 1H), 1.90-2.09 (9H), 1.79 (m, 2H), 1.66 (m, 1H). Calcd for C31H41N6O3 (MH+) 545.3, found 545.3.

reactant | 4-[7-(2-methanesulfonyloxy-ethoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.09 mmol, 40.6 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCCOS(=O)(=O)C | C21H29N3O6S
reactant | (S)-(+)-2-pyrrolidinemethanol | 0.9 mmol, 90.9 mg | N1[C@@H](CCC1)CO | C5H11NO
reactant | (4-pyrrolidin-1-yl-phenyl)-carbamic acid 4-nitro-phenyl ester hydrochloride | 0.054 mmol, 19.6 mg | Cl.[N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=CC=C(C=C1)N1CCCC1)=O
solvent | DMSO | 0.4 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-{7-[2-(2-Hydroxymethyl-pyrrolidin-1-yl)-ethoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid (4-pyrrolidin-1-yl-phenyl)-amide | N1(CCCC1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCCN1C(CCC1)CO | C31H40N6O3
